
*-------------------------------------------------------------
* RM1 <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT RM1 A B
RR1 A B devices__res  l=0.06u  w=0.06u  
.ENDS

*-------------------------------------------------------------
* RM4 <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT RM4 A B
RR1 A B devices__res  l=0.06u  w=0.06u  
.ENDS

*-------------------------------------------------------------
* CAP <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT CAP B A
RR1 B NC0 devices__res  l=0.086u  w=0.086u  
RR2 A NC1 devices__res  l=0.086u  w=0.086u  
.ENDS

*-------------------------------------------------------------
* CAPR <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT CAPR B A
RR1 B NC0 devices__res  l=0.086u  w=0.086u  
RR2 A NC1 devices__res  l=0.086u  w=0.086u  
.ENDS

*-------------------------------------------------------------
* DMOS <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT DMOS D G S B
XMM1 D G S B devices__pmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* PCHDL <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT PCHDL D G S B
XMM1 D G S B devices__pmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* NCHDL <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NCHDL D G S B
XMM1 D G S B devices__nmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* NCHDLR <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NCHDLR D G S B
XMM1 D G S B devices__nmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* DMOS_BULK <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT DMOS_BULK D G S B
XMM1 D G S B devices__pmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* PCHDLDMY <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT PCHDLDMY D G S B
XMM1 D G S B devices__pmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* NCHDLDMY <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NCHDLDMY D G S B
XMM1 D G S B devices__nmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* NCHDLRDMY <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NCHDLRDMY D G S B
XMM1 D G S B devices__nmos4  l=0.03*1u  nf=1  m=1  totalW=0.258*1u  fingerW=0.258*1u  
.ENDS

*-------------------------------------------------------------
* TIEH_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT TIEH_CV Y AVDD AVSS
XMN0 A A AVSS AVSS NCHDL
XMP0 Y A AVDD AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* TIEL_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT TIEL_CV Y AVDD AVSS
XMN0 Y A AVSS AVSS NCHDL
XMP0 A A AVDD AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* CAPX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT CAPX1_CV A B
XA1 A B CAPR
XB1 A B CAP
.ENDS

*-------------------------------------------------------------
* IVX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT IVX1_CV A Y AVDD AVSS
XMN0 Y A AVSS AVSS NCHDL
XMP0 Y A AVDD AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* IVX2_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT IVX2_CV A Y AVDD AVSS
XMN0 Y A AVSS AVSS NCHDL
XMN1 AVSS A Y AVSS NCHDL
XMP0 Y A AVDD AVSS PCHDL
XMP1 AVDD A Y AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SWX2_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SWX2_CV A Y VREF AVSS
XMN0 Y A AVSS AVSS NCHDL
XMN1 AVSS A Y AVSS NCHDL
XMP0 Y A VREF AVSS PCHDL
XMP1 VREF A Y AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SWX4_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SWX4_CV A Y VREF AVSS
XMN0 Y A AVSS AVSS NCHDL
XMN1 AVSS A Y AVSS NCHDL
XMN2 Y A AVSS AVSS NCHDL
XMN3 AVSS A Y AVSS NCHDL
XMP0 Y A VREF AVSS PCHDL
XMP1 VREF A Y AVSS PCHDL
XMP2 Y A VREF AVSS PCHDL
XMP3 VREF A Y AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* TGPD_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT TGPD_CV C A B AVDD AVSS
XMN0 AVSS C CN AVSS NCHDL
XMN1 B C AVSS AVSS NCHDL
XMN2 A CN B AVSS NCHDL
XMP0 AVDD C CN AVSS PCHDL
XMP1_DMY B AVDD AVDD AVSS PCHDL
XMP2 A C B AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* IVX4_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT IVX4_CV A Y AVDD AVSS
XMN0 Y A AVSS AVSS NCHDL
XMN1 AVSS A Y AVSS NCHDL
XMN2 Y A AVSS AVSS NCHDL
XMN3 AVSS A Y AVSS NCHDL
XMP0 Y A AVDD AVSS PCHDL
XMP1 AVDD A Y AVSS PCHDL
XMP2 Y A AVDD AVSS PCHDL
XMP3 AVDD A Y AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* TAPCELL_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT TAPCELL_CV TAP
XMN1 TAP TAP TAP TAP NCHDL
XMP1 TAP TAP TAP TAP PCHDL
.ENDS

*-------------------------------------------------------------
* TAPCELLB_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT TAPCELLB_CV AVSS AVDD
XMN1 AVSS AVSS AVSS AVSS NCHDL
XMP1 AVDD AVDD AVDD AVDD PCHDL
.ENDS

*-------------------------------------------------------------
* NRX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NRX1_CV A B Y AVDD AVSS
XMN0 Y A AVSS AVSS NCHDL
XMN1 AVSS B Y AVSS NCHDL
XMP0 N1 A AVDD AVSS PCHDL
XMP1 Y B N1 AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* NDX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT NDX1_CV A B Y AVDD AVSS
XMN0 N1 A AVSS AVSS NCHDL
XMN1 Y B N1 AVSS NCHDL
XMP0 Y A AVDD AVSS PCHDL
XMP1 AVDD B Y AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SAREMX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SAREMX1_CV A B EN ENO RST_N AVDD AVSS
XMN0 N3 EN AM AVSS NCHDL
XMN1 N3 B AVSS AVSS NCHDL
XMN2 AVSS A N3 AVSS NCHDL
XMN3 ENO AM AVSS AVSS NCHDL
XMP0 AVDD RST_N AM AVSS PCHDL
XMP1 N2 B ENO AVSS PCHDL
XMP2 N1 A N2 AVSS PCHDL
XMP3 AVDD AM N1 AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SARLTX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARLTX1_CV A CHL RST_N EN LCK_N AVDD AVSS
XMN0 N1 A AVSS AVSS NCHDL
XMN1 N3 LCK_N N1 AVSS NCHDL
XMN2 CHL EN N3 AVSS NCHDL
XMP0 NP2 RST_N AVDD AVSS PCHDL
XMP1 NP1 RST_N NP2 AVSS PCHDL
XMP2 CHL RST_N NP1 AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SARCEX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARCEX1_CV A B Y RST AVDD AVSS
XMN0 N4 RST AVSS AVSS NCHDL
XMN1 AVSS RST N4 AVSS NCHDL
XMN2 N1 RST AVSS AVSS NCHDL
XMN3 Y RST N1 AVSS NCHDL
XMP0 N2 A Y AVSS PCHDL
XMP1 AVDD A N2 AVSS PCHDL
XMP2 N3 B AVDD AVSS PCHDL
XMP3 Y B N3 AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SARCMPHX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARCMPHX1_CV CI CK CO VMR N1 N2 AVDD AVSS
XMN0 N1 CK AVSS AVSS NCHDL
XMN1 N2 CI N1 AVSS NCHDL
XMN2 N1 CI N2 AVSS NCHDL
XMN3 N2 CI N1 AVSS NCHDL
XMN4 N1 CI N2 AVSS NCHDL
XMN5 N2 CI N1 AVSS NCHDL
XMN6 CO VMR N2 AVSS NCHDL
XMP0 AVDD CK N1 AVSS PCHDL
XMP1 N2 CK AVDD AVSS PCHDL
XMP2 AVDD AVDD N2 AVSS PCHDL
XMP3 CO CK AVDD AVSS PCHDL
XMP4 AVDD VMR CO AVSS PCHDL
XMP5 CO VMR AVDD AVSS PCHDL
XMP6 AVDD VMR CO AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SARKICKHX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARKICKHX1_CV CI CK CKN AVDD AVSS
XMN0 N1 CKN AVSS AVSS NCHDL
XMN1 N1 CI N1 AVSS NCHDL
XMN2 N1 CI N1 AVSS NCHDL
XMN3 N1 CI N1 AVSS NCHDL
XMN4 N1 CI N1 AVSS NCHDL
XMN5 N1 CI N1 AVSS NCHDL
XMN6 AVDD CK N1 AVSS NCHDL
XMP0 AVDD CKN N1 AVSS PCHDL
XMP1_DMY AVDD AVDD AVDD AVSS PCHDL
XMP2_DMY AVDD AVDD AVDD AVSS PCHDL
XMP3_DMY AVDD AVDD AVDD AVSS PCHDL
XMP4_DMY AVDD AVDD AVDD AVSS PCHDL
XMP5_DMY AVDD AVDD AVDD AVSS PCHDL
XMP6 AVDD AVDD AVDD AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* SARBSSWCTRL_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARBSSWCTRL_CV C GN GNG TIE_H AVDD AVSS
XMN0 N1 C AVSS AVSS NCHDL
XMN1 GN TIE_H N1 AVSS NCHDL
XMP0 GNG C GN AVSS PCHDL
XMP1 AVDD GN GNG AVSS PCHDL
.ENDS

*-------------------------------------------------------------
* CAP32C_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT CAP32C_CV C1A C1B C2 C4 C8 C16 CTOP AVSS
XRES1A C1A NC1 RM1
XRES1B C1B NC2 RM1
XRES2 C2 NC3 RM1
XRES4 C4 NC4 RM1
XRES8 C8 NC5 RM1
XRES16 C16 NC6 RM1
.ENDS

*-------------------------------------------------------------
* SARCMPX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARCMPX1_CV CPI CNI CPO CNO CK_CMP CK_SAMPLE DONE AVDD AVSS
XA0 AVSS TAPCELL_CV
XA1 CPI CK_B CK_N AVDD AVSS SARKICKHX1_CV
XA2 CPI CK_B CNO_I CPO_I N1 NC1 AVDD AVSS SARCMPHX1_CV
XA2a CPO_I CPO AVDD AVSS IVX4_CV
XA3a CNO_I CNO AVDD AVSS IVX4_CV
XA3 CNI CK_B CPO_I CNO_I N1 NC2 AVDD AVSS SARCMPHX1_CV
XA4 CNI CK_B CK_N AVDD AVSS SARKICKHX1_CV
XA9 CK_N CK_B AVDD AVSS IVX1_CV
XA10 DONE_N CK_A CK_N AVDD AVSS NDX1_CV
XA11 CK_SAMPLE DONE DONE_N AVDD AVSS NRX1_CV
XA12 CK_CMP CK_A AVDD AVSS IVX1_CV
XA13 AVSS TAPCELL_CV
.ENDS

*-------------------------------------------------------------
* SARBSSW_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARBSSW_CV VI CK CKN TIE_L VO1 VO2 AVDD AVSS
XM1 VI GN VO1 AVSS NCHDLR
XM2 VI GN VO1 AVSS NCHDLR
XM3 VI GN VO1 AVSS NCHDLR
XM4 VI GN VO1 AVSS NCHDLR
XM5 VI TIE_L VO2 AVSS NCHDLR
XM6 VI TIE_L VO2 AVSS NCHDLR
XM7 VI TIE_L VO2 AVSS NCHDLR
XM8 VI TIE_L VO2 AVSS NCHDLR
XA0 CK CKN AVDD AVSS IVX1_CV
XA3 CKN VI VS AVDD AVSS TGPD_CV
XA4 CKN GN GNG TIE_H AVDD AVSS SARBSSWCTRL_CV
XA1 TIE_H AVDD AVSS TIEH_CV
XA2 TIE_L AVDD AVSS TIEL_CV
XA5 AVSS TAPCELL_CV
XCAPB0 GNG VS CAPX1_CV
XCAPB1 GNG VS CAPX1_CV
XCAPB2 GNG VS CAPX1_CV
XCAPB3 GNG VS CAPX1_CV
XCAPB4 GNG VS CAPX1_CV
XCAPB5 GNG VS CAPX1_CV
XCAPB6 GNG VS CAPX1_CV
XCAPC0 GNG VS CAPX1_CV
XCAPC1 GNG VS CAPX1_CV
XCAPC2 GNG VS CAPX1_CV
XCAPC3 GNG VS CAPX1_CV
XCAPC4 GNG VS CAPX1_CV
XCAPC5 GNG VS CAPX1_CV
XCAPC6 GNG VS CAPX1_CV
.ENDS

*-------------------------------------------------------------
* SARMRYX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARMRYX1_CV CMP_OP CMP_ON EN RST_N ENO CHL_OP CHL_ON AVDD AVSS
XA0 AVSS TAPCELL_CV
XA1 CMP_OP CMP_ON EN ENO RST_N AVDD AVSS SAREMX1_CV
XA2 ENO LCK_N AVDD AVSS IVX1_CV
XA4 CMP_OP CHL_OP RST_N EN LCK_N AVDD AVSS SARLTX1_CV
XA5 CMP_ON CHL_ON RST_N EN LCK_N AVDD AVSS SARLTX1_CV
.ENDS

*-------------------------------------------------------------
* SARDIGX1_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARDIGX1_CV CMP_OP CMP_ON EN RST_N ENO CP0 CP1 CN0 CN1 VREF AVDD AVSS
XA1 CMP_OP CMP_ON EN RST_N ENO CHL_OP CHL_ON AVDD AVSS SARMRYX1_CV
XA2 CHL_ON CN1 VREF AVSS SWX2_CV
XA3 CN1 CP1 VREF AVSS SWX2_CV
XA4 CHL_OP CP0 VREF AVSS SWX2_CV
XA5 CP0 CN0 VREF AVSS SWX2_CV
XA6 AVSS TAPCELL_CV
.ENDS

*-------------------------------------------------------------
* SARDIGEX2_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARDIGEX2_CV CMP_OP CMP_ON EN RST_N ENO DONE CP0 CP1 CN0 CN1 CEIN CEO CKS VREF AVDD AVSS
XA1 CMP_OP CMP_ON EN RST_N ENO CHL_OP CHL_ON AVDD AVSS SARMRYX1_CV
XA2 CHL_ON CN1 VREF AVSS SWX2_CV
XA3 CN1 CP1 VREF AVSS SWX2_CV
XA4 CHL_OP CP0 VREF AVSS SWX2_CV
XA5 CP0 CN0 VREF AVSS SWX2_CV
XA6 CN0 CP1 CE CKS AVDD AVSS SARCEX1_CV
XA7 ENO ENO_N AVDD AVSS IVX1_CV
XA8 ENO_N DONE AVDD AVSS IVX1_CV
XA9 ENO_N CE CE1 AVDD AVSS NDX1_CV
XA10 CE1 CE1_N AVDD AVSS IVX1_CV
XA11 CE1_N CEIN CEO1 AVDD AVSS NRX1_CV
XA12 CEO1 CEO AVDD AVSS IVX1_CV
XA13 AVSS TAPCELL_CV
.ENDS

*-------------------------------------------------------------
* SARDIGEX4_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT SARDIGEX4_CV CMP_OP CMP_ON EN RST_N ENO DONE CP0 CP1 CN0 CN1 CEIN CEO CKS VREF AVDD AVSS
XA1 CMP_OP CMP_ON EN RST_N ENO CHL_OP CHL_ON AVDD AVSS SARMRYX1_CV
XA2 CHL_ON CN1 VREF AVSS SWX4_CV
XA3 CN1 CP1 VREF AVSS SWX4_CV
XA4 CHL_OP CP0 VREF AVSS SWX4_CV
XA5 CP0 CN0 VREF AVSS SWX4_CV
XA6 CN0 CP1 CE CKS AVDD AVSS SARCEX1_CV
XA7 ENO ENO_N AVDD AVSS IVX1_CV
XA8 ENO_N DONE AVDD AVSS IVX1_CV
XA9 ENO_N CE CE1 AVDD AVSS NDX1_CV
XA10 CE1 CE1_N AVDD AVSS IVX1_CV
XA11 CE1_N CEIN CEO1 AVDD AVSS NRX1_CV
XA12 CEO1 CEO AVDD AVSS IVX1_CV
XA13 AVSS TAPCELL_CV
.ENDS

*-------------------------------------------------------------
* CDAC9_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT CDAC9_CV CP_13 CP_12 CP_11 CP_10 CP_9 CP_8 CP_7 CP_6 CP_5 CP_4 CP_3 CP_2 CP_1 CP_0 CTOP AVSS
XC1 CP_12 CP_12 CP_12 CP_12 CP_12 CP_12 CTOP AVSS CAP32C_CV
XC256a<7> CP_13 CP_13 CP_13 CP_13 CP_13 CP_13 CTOP AVSS CAP32C_CV
XC128b<3> CP_10 CP_10 CP_10 CP_10 CP_10 CP_10 CTOP AVSS CAP32C_CV
XC64a<0> CP_8 CP_8 CP_8 CP_8 CP_8 CP_8 CTOP AVSS CAP32C_CV
XC32a<0> CP_6 CP_6 CP_6 CP_6 CP_6 CP_7 CTOP AVSS CAP32C_CV
XCS AVSS CP_0 CP_1 CP_2 CP_3 AVSS CTOP AVSS CAP32C_CV
XC128a<1> CP_11 CP_11 CP_11 CP_11 CP_11 CP_11 CTOP AVSS CAP32C_CV
XC256b<5> CP_12 CP_12 CP_12 CP_12 CP_12 CP_12 CTOP AVSS CAP32C_CV
XC256a<5> CP_13 CP_13 CP_13 CP_13 CP_13 CP_13 CTOP AVSS CAP32C_CV
XC256b<2> CP_12 CP_12 CP_12 CP_12 CP_12 CP_12 CTOP AVSS CAP32C_CV
XC256a<2> CP_13 CP_13 CP_13 CP_13 CP_13 CP_13 CTOP AVSS CAP32C_CV
XC128b<2> CP_10 CP_10 CP_10 CP_10 CP_10 CP_10 CTOP AVSS CAP32C_CV
X16ab CP_5 CP_5 CP_5 CP_5 CP_4 AVSS CTOP AVSS CAP32C_CV
XC64b<1> CP_9 CP_9 CP_9 CP_9 CP_9 CP_9 CTOP AVSS CAP32C_CV
XC128a<0> CP_11 CP_11 CP_11 CP_11 CP_11 CP_11 CTOP AVSS CAP32C_CV
XC256b<0> CP_12 CP_12 CP_12 CP_12 CP_12 CP_12 CTOP AVSS CAP32C_CV
XC0 CP_13 CP_13 CP_13 CP_13 CP_13 CP_13 CTOP AVSS CAP32C_CV
.ENDS

*-------------------------------------------------------------
* ALGIC001_SAR9B_CV_NOROUTE <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT ALGIC001_SAR9B_CV_NOROUTE SAR_IP SAR_IN SARN SARP DONE D_9 D_8 D_7 D_6 D_5 D_4 D_3 D_2 D_1 EN CK_SAMPLE CK_SAMPLE_BSSW VREF AVDD AVSS
XB1 SAR_IP CK_SAMPLE_BSSW NCCA CEIN SARP SARN AVDD AVSS SARBSSW_CV
XB2 SAR_IN CK_SAMPLE_BSSW NCCB CEIN SARN SARP AVDD AVSS SARBSSW_CV
XDAC1 CP_13 CP_12 D_8 CP_10 D_7 CP_8 D_6 CP_6 D_5 CP_4 D_4 D_3 D_2 D_1 SARP AVSS CDAC9_CV
XDAC2 D_9 CN_12 CN_11 CN_10 CN_9 CN_8 CN_7 CN_6 CN_5 CN_4 CN_3 CN_2 CN_1 CN_0 SARN AVSS CDAC9_CV
XA0 CMP_OP CMP_ON EN EN ENO0 DONE0 CP_12 CP_13 CN_12 D_9 CEIN CEO0 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA1 CMP_OP CMP_ON ENO0 EN ENO1 DONE1 CP_10 D_8 CN_10 CN_11 CEO0 CEO1 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA2 CMP_OP CMP_ON ENO1 EN ENO2 DONE2 CP_8 D_7 CN_8 CN_9 CEO1 CEO2 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA3 CMP_OP CMP_ON ENO2 EN ENO3 DONE3 CP_6 D_6 CN_6 CN_7 CEO2 CEO3 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA4 CMP_OP CMP_ON ENO3 EN ENO4 DONE4 CP_4 D_5 CN_4 CN_5 CEO3 CEO4 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA5 CMP_OP CMP_ON ENO4 EN ENO5 DONE5 NC3A D_4 CN_3 NC3B CEO4 CEO5 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA6 CMP_OP CMP_ON ENO5 EN ENO6 DONE6 NC4A D_3 CN_2 NC4B CEO5 CEO6 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA7 CMP_OP CMP_ON ENO6 EN ENO7 DONE7 NC5A D_2 CN_1 NC5B CEO6 CEO7 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA8 CMP_OP CMP_ON ENO7 EN ENO8 DONE NC6A D_1 CN_0 NC6B CEO7 CK_CMP CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA20 SARP SARN CMP_OP CMP_ON CK_CMP CK_SAMPLE DONE AVDD AVSS SARCMPX1_CV
.ENDS

*-------------------------------------------------------------
* ALGIC001_SAR9B_CV <class 'cicpy.core.layoutcell.LayoutCell'>
*-------------------------------------------------------------
.SUBCKT ALGIC001_SAR9B_CV SAR_IP SAR_IN SARN SARP DONE D_9 D_8 D_7 D_6 D_5 D_4 D_3 D_2 D_1 EN CK_SAMPLE CK_SAMPLE_BSSW VREF AVDD AVSS
XB1 SAR_IP CK_SAMPLE_BSSW NCCA CEIN SARP SARN AVDD AVSS SARBSSW_CV
XB2 SAR_IN CK_SAMPLE_BSSW NCCB CEIN SARN SARP AVDD AVSS SARBSSW_CV
XDAC1 CP_13 CP_12 D_8 CP_10 D_7 CP_8 D_6 CP_6 D_5 CP_4 D_4 D_3 D_2 D_1 SARP AVSS CDAC9_CV
XDAC2 D_9 CN_12 CN_11 CN_10 CN_9 CN_8 CN_7 CN_6 CN_5 CN_4 CN_3 CN_2 CN_1 CN_0 SARN AVSS CDAC9_CV
XA0 CMP_OP CMP_ON EN EN ENO0 DONE0 CP_12 CP_13 CN_12 D_9 CEIN CEO0 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA1 CMP_OP CMP_ON ENO0 EN ENO1 DONE1 CP_10 D_8 CN_10 CN_11 CEO0 CEO1 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA2 CMP_OP CMP_ON ENO1 EN ENO2 DONE2 CP_8 D_7 CN_8 CN_9 CEO1 CEO2 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA3 CMP_OP CMP_ON ENO2 EN ENO3 DONE3 CP_6 D_6 CN_6 CN_7 CEO2 CEO3 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA4 CMP_OP CMP_ON ENO3 EN ENO4 DONE4 CP_4 D_5 CN_4 CN_5 CEO3 CEO4 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA5 CMP_OP CMP_ON ENO4 EN ENO5 DONE5 NC3A D_4 CN_3 NC3B CEO4 CEO5 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA6 CMP_OP CMP_ON ENO5 EN ENO6 DONE6 NC4A D_3 CN_2 NC4B CEO5 CEO6 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA7 CMP_OP CMP_ON ENO6 EN ENO7 DONE7 NC5A D_2 CN_1 NC5B CEO6 CEO7 CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA8 CMP_OP CMP_ON ENO7 EN ENO8 DONE NC6A D_1 CN_0 NC6B CEO7 CK_CMP CK_SAMPLE VREF AVDD AVSS SARDIGEX4_CV
XA20 SARP SARN CMP_OP CMP_ON CK_CMP CK_SAMPLE DONE AVDD AVSS SARCMPX1_CV
.ENDS
